US07192982B2
3-{4-[3-(4-Benzyl-phenoxy)-propoxy]-3-methoxy-phenyl}-2-methoxy-propionic acid
The title compound was prepared from 3-[4-(3-Bromo-propoxy)-3-methoxy-phenyl]-2-methoxy-propionic acid and 4-benzylphenol following the Standard Procedure J. MS (ES) for C27H30O6 [M+NH4]+: 468, [M+Na]+: 473.

reactant | 3-[4-(3-Bromo-propoxy)-3-methoxy-phenyl]-2-methoxy-propionic acid | BrCCCOC1=C(C=C(C=C1)CC(C(=O)O)OC)OC | C14H19BrO5
reactant | 4-benzylphenol | C(C1=CC=CC=C1)C1=CC=C(C=C1)O | C13H12O
product | 3-{4-[3-(4-Benzyl-phenoxy)-propoxy]-3-methoxy-phenyl}-2-methoxy-propionic acid | C(C1=CC=CC=C1)C1=CC=C(OCCCOC2=C(C=C(C=C2)CC(C(=O)O)OC)OC)C=C1 | C27H30O6
